US07429581B2
(iii) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-pyrazole-3,5-dicarboxylic acid 3-methyl ester
To a solution of 1.7 g 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-pyrazole-3,5-dicarboxylic acid dimethyl ester in 10 ml water/THF 1:1, 4 ml of a 1M aqueous NaOH were added at RT and the mixture was stirred for 3 h with LCMS reaction control. Then the reaction mixture was acidified to pH 3 with half concentrated HCl and extracted with DCM (3×50 ml). The organic phase was dried over MgSO4, filtered and the solvent removed under reduced pressure. The residue was subjected to the next reaction step without further purification.

reactant | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-pyrazole-3,5-dicarboxylic acid dimethyl ester | 1.7 g | COC(=O)C1=NN(C(=C1)C(=O)OC)CC1=NOC(=C1)C=1SC(=CC1)Cl | C15H12ClN3O5S
reactant | NaOH | 1M | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | water THF | 10 ml | O.C1CCOC1
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-pyrazole-3,5-dicarboxylic acid 3-methyl ester | COC(=O)C1=NN(C(=C1)C(=O)O)CC1=NOC(=C1)C=1SC(=CC1)Cl | C14H10ClN3O5S
